US07812014B2
Step 3: 7-Methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid ethyl ester
Et3N (3.44 mL), 37% HCHO aq. (2.02 mL) and NaBH3CN (1.78 g) were added successively to the MeOH (75 mL) solution of 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid ethyl ester, hydrochloride (5.2 g) at room temperature and stirred for 3.5 h under a nitrogen atmosphere. The mixture was diluted with CH2Cl2 and washed with 50% K2CO3 aq. The organic layer was dried (K2CO3) and filtered. The filtrate was concentrated under reduced pressure. The residue was applied to silica gel column chromatography, then the column was eluted with CHCl3-acetone (1/1˜1/2). The titled compound was obtained as orange oil. Yield: 2.68 g, 57%).

reactant | Et3N | 3.44 mL | CCN(CC)CC | C6H15N
reactant | HCHO | 2.02 mL | C=O | CH2O
reactant | NaBH3CN | 1.78 g | [BH3-]C#N.[Na+]
reactant | 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid ethyl ester, hydrochloride | 5.2 g | Cl.C(C)OC(=O)C=1N=C2N(CCNC2)C1
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 75 mL | CO | CH4O
product | 7-Methyl-5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2N(CCN(C2)C)C1 | C10H15N3O2
